US06531474B1
[2-(Indan-2-yl)oxy-5-oxo-tetrahydro-furan-3-yl]-carbamic Acid Allyl Ester
Prepared from 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester (5.2 gram, 20 mmol) as described for 40 using 2-indanol (8.05 gram, 60 mmol) to afford 4.10 grams (65% yield) of the title compound as a mixture of epimers. Purification provided 1.76 gram (28% yield ) of the 4(S), 5(R) epimer as a yellow oil. 1H NMR (500 MHz, CDCl3) δ 2.42 (dd, J=17.2, 10.5 Hz, 1H), 2.79 (dd, J=17.2, 8.4 Hz, 1H), 2.99 (dd, J=16.7, 4.1 Hz, 1H), 3.04 (dd, J=16.7, 4.1 Hz, 1H), 3.22 (dd, J=17.2, 6.6 Hz, 1H), 3.26 (dd, J=17.2, 6.6 Hz, 1H), 4.53 (m, 3H), 4.70 (m, 1H), 5.20 (m, 2H), 5.60 (d, J=5.3 Hz, 1H), 5.87 (m, 1H), 7.17 (m, 4H) ppm. LC-MS (ES+): m/e=318 (M+H). Analytical HPLC (C18 column): 17.094 min.

reactant | 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester | 20 mmol, 5.2 gram | C(C)(C)(C)OC(CC(CO)NC(=O)OCC=C)=O | C12H21NO5
reactant | 2-indanol | 60 mmol, 8.05 gram | C1C(CC2=CC=CC=C12)O | C9H10O
product | [2-(Indan-2-yl)oxy-5-oxo-tetrahydro-furan-3-yl]-carbamic Acid Allyl Ester | 4.10 grams, 65% yield | C(C=C)OC(NC1C(OC(C1)=O)OC1CC2=CC=CC=C2C1)=O | C17H19NO5
